US08470816B2
To a solution of sodium hydride (60% in oil, 6.36 g) in DMF (100 mL) was added ethyl 1-benzyl-3-oxopiperidine-4-carboxylate monohydrochloride (19.0 g) at 0° C., and the mixture was stirred for 5 min. N-phenylbis(trifluoromethanesulfonimide) (25.0 g) was added, and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was poured into ice water, and the resultant product was extracted with ethyl acetate. The organic layer was washed with water and brine and dried, and the solvent was evaporated under reduced pressure. To a mixture of the obtained residue in toluene (125 mL) and water (7.5 mL) were added dihydroxyphenylborane (5.82 g), potassium carbonate (4.40 g) and tetrakis(triphenylphosphine)palladium(0) (3.67 g), and the mixture was stirred under an argon atmosphere at 100° C. for 14 hr. The reaction mixture was poured into water, and the resultant product was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and brine and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient; 10→20% ethyl acetate/hexane) to give ethyl 1-benzyl-5-phenyl-1,2,3,6-tetrahydropyridine-4-carboxylate (10.2 g) as a pale yellow oil.

reactant | sodium hydride | 6.36 g | [H-].[Na+]
reactant | ethyl 1-benzyl-3-oxopiperidine-4-carboxylate monohydrochloride | 19.0 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
reactant | N-phenylbis(trifluoromethanesulfonimide) | 25.0 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | ethyl 1-benzyl-5-phenyl-1,2,3,6-tetrahydropyridine-4-carboxylate | 10.2 g | C(C1=CC=CC=C1)N1CCC(=C(C1)C1=CC=CC=C1)C(=O)OCC | C21H23NO2
